US05254595
Following the procedure described in Example 27, but starting from 4-(2,3-epoxypropoxy)-2-oxoindoline (20.5 g) and 2-aminotetralin (14.81 g) in ethanol (150 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-oxo-2,3-dihydroindol-4-yloxy)propanamine hydrochloride is obtained, ((i): R=H, Ar=radical 18 wherein Z is H, and the chain is attached to position 2 of the tetralin moiety).

reactant | 4-(2,3-epoxypropoxy)-2-oxoindoline | 20.5 g | O1C(COC2=C3CC(NC3=CC=C2)=O)C1 | C11H11NO3
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-oxo-2,3-dihydroindol-4-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=C2CC(NC2=CC=C1)=O)O
product | 2-aminotetralin | 14.81 g | NC1CC2=CC=CC=C2CC1 | C10H13N
